US08193189B2
4-(4-Bromo-benzyl)-thiomorpholine-1,1-dioxide
2.18 ml (15.5 mmol) of triethylamine are added to a colorless suspension of 1.28 g (5 mmol) of 4-bromobenzyl bromide and 944 mg (5.5 mmol) thiomorpholine-1,1-dioxide hydrochloride in 15 ml DMF. After 3 h at RT, the reaction mixture is partitioned between CH2Cl2 and H2O. The aqueous phase is re-extracted four times with CH2Cl2. The combined organic extracts are washed with water, saturated brine, dried over Na2SO4, filtered and the filtrate is concentrated in vacuo to afford, after drying in HV, the title compound which is used in the next step without further purification.

reactant | triethylamine | 15.5 mmol, 2.18 ml | C(C)N(CC)CC | C6H15N
reactant | 4-bromobenzyl bromide | 5 mmol, 1.28 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | thiomorpholine-1,1-dioxide hydrochloride | 5.5 mmol, 944 mg | Cl.N1CCS(CC1)(=O)=O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 4-(4-Bromo-benzyl)-thiomorpholine-1,1-dioxide | BrC1=CC=C(CN2CCS(CC2)(=O)=O)C=C1 | C11H14BrNO2S
